Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
bee stings
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yr old male who presented from ___ after
falling witnessed by police striking his head while walking
intoxicated with ETOH. At OSH head CT showed a small left 
frontal
subdural tracking around temporal region with no mass effect or
midline shift. He was then brought to ___ for management of
___. 

 
Past Medical History:
Unable to obtain due to patient intoxication
 
Social History:
___
Family History:
Unable to obtain. Pt stated he is alone and family lives in ___ 
but he has not been there for over ___ yrs. 
 
Physical Exam:
O: T:97.6  BP: 136/84    HR: 78   R: 16    O2Sats: 100%
Gen: Well developed, appears to be intoxicated, slightly
lethargic, NAD.

Neuro:
Mental status: Lethargic, maintains some awakeness but not awake
enough to thoroughly finish exam.
Orientation: Oriented to person, and date but not place.

Language: Slurred but comprehensible with repetition.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to ___
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch.

Toes downgoing bilaterally.

 
Pertinent Results:
Head CT ___ 
Small left frontal subdural tracking around the temporal region
with no mass effect or mid line shift noted.

___ 03:22AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:22AM   GLUCOSE-91 UREA N-6 CREAT-0.9 SODIUM-146* 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-30 ANION GAP-18
___ 03:22AM   ___ PTT-31.5 ___
___ 03:22AM   PLT COUNT-194
 
Brief Hospital Course:
Mr. ___ was brought in to the Emergency  room at ___ 
___ by police after being found walking with an unsteady 
gait, pt fell striking his head on the cement, witnessed by 
police. He was intoxicated with ETOH. Head CT showed tiny left 
frototemporal subdural hematoma. Transfered to ___ for 
management. On admission blood alcohol level was 331. On exam he 
was lethargic but neurologicaly intact moving all extremities 
___. He was admited on the neurosurgical service and started on 
dilatin, thiamine and folate. That night head CT was stable. On 
the morning of ___ patient became diaphoretic, with slurred 
speech and  confused. On CIWA protocal with ativan.  Head CT was 
repeated and was stable, Cardiac enzymes were obtained and were 
negative. Social work consulted, social work came to see patient 
several times but patient was not awake, will attempt to see 
patient tomorrow. Patient apears to homeless, his stories are 
not consistent to were he resides. He satated he lives with his 
Nanny and on another occasion stated he lives in ___ but has not 
seen his family since ___ years ago.

Patient was seen and evaluated by social work on ___ and 
offered numbers for alcohol rehab which patient did not call per 
SW not. 

Prior to formal discharge, the patient was dressed and trying to 
leave the floor. This practitioner is discharging the patient 
w/o perscriptions, but with follow up phone numbers at the 
neurosurgery and ___ clinic.

 
Medications on Admission:
None
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subdural hematoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nonsurgical Brain Hemorrhage

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___